US07655664B2
2-Cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine
5-Bromo-2-cyclopropylpyridine (0.21 g, 1.1 mmol), bis(pinacolato)diboron (0.31 g, 1.2 mmol) and potassium acetate (0.32 g, 3.2 mmol) were suspended in dioxane (10 mL). The slurry was degassed with argon for 10 minutes and then PdCl2×dppf (0.026 g) was added. The reaction mixture was heated to 80° C. for 15 h and then, after cooling to RT, filtered through a Celite plug. The filtrate was concentrated to give a black oil that was dissolved in ether and extracted four times with 1.0M sodium hydroxide. The combined yellow water phases were cooled to 10° C., acidified with 2.5M hydrochloric acid to pH 6.5 and then extracted repeatedly with ether. The combined organic phases were dried over anhydrous magnesium sulfate, filtered and concentrated to give 0.27 g (103%) of the title product as a yellow oil that slowly solidified. 1H-NMR suggested a purity of about 60-65% of the required product, the major contaminant being pinacolborane. The crude material was used without further purification.

reactant | 5-Bromo-2-cyclopropylpyridine | 1.1 mmol, 0.21 g | BrC=1C=CC(=NC1)C1CC1 | C8H8BrN
reactant | bis(pinacolato)diboron | 1.2 mmol, 0.31 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.2 mmol, 0.32 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-Cyclopropyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.27 g, 103% | C1(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H20BNO2
